US07208490B2
Step 2: 5-Acetyl-2-fluorobenzaldehyde
2-(5-bromo-2-fluorophenyl)-1,3-dioxolane (5.2 g, 21.2 mmol) is taken up in dry, preservative-free THF (30 mL) and the solution is cooled to −40° C. under N2. A 1.6 M solution of n-butyllithium in hexanes (13.2 mL, 1 eq) is added via syringe and the solution is stirred for 25 minutes @ −40° C. The lithiated substrate is added dropwise via cannula to a −40° C. solution of N-methoxy-N-methylacetamide (2.36 mL, 22.2 mmol, Aldrich) in 10 mL of dry, preservative-free THF. The solution is warmed to RT with stirring for 1 hour. The solution is poured into a flask containing 1.0M HCl (100 mL) and heated to 65° C. with vigorous stirring overnight. Upon cooling the oily product is extracted into EtOAc (200 mL) and the organic layer is washed with water and brine (200 mL each). The organic layer is dried over Na2SO4 and filtered. The solvent is removed by rotary evaporation and the product is purified on a Biotage Flash 75L (800 g silica) cartridge using 30% MTBE in heptane as eluent. The product containing fractions are pooled and the solvent is removed by rotary evaporation. The product is dried under vacuum yielding an oily yellow solid.

reactant | 2-(5-bromo-2-fluorophenyl)-1,3-dioxolane | 21.2 mmol, 5.2 g | BrC=1C=CC(=C(C1)C1OCCO1)F | C9H8BrFO2
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-methoxy-N-methylacetamide | 22.2 mmol, 2.36 mL | CON(C(C)=O)C | C4H9NO2
product | 5-Acetyl-2-fluorobenzaldehyde | C(C)(=O)C=1C=CC(=C(C=O)C1)F | C9H7FO2
